2106-12-20 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2106-12-19**] 07:15 PM
 NASAL SWAB - At [**2106-12-19**] 08:00 PM
 ARTERIAL LINE - START [**2106-12-19**] 10:35 PM
 MULTI LUMEN - START [**2106-12-20**] 12:11 AM
   -was put on PS 10/5/60% however ABG: 7.2/52/100 so was switched back to
   AC
   -Pt initially very difficult to ventilate. Pt had a prolonged forced
   exhalation that did not improve with fent/versed. Developed
   bronchospasm and produced large amts of thick frothy bloody sput. Peep
   increased to 10 due to probable airtrapping. Pt overbreathing
   consistently so volume / rate increased. Sedation changed to prop with
   better ventilatory pattern established.
   -placed a line and CVL
   -found OG tube to be curled in mouth so attempt was made to replace
   with NG however patient brady to 40s and withdrawn
   -. At this point patient given Lasix and put out approximately 1L, and
   then became hypotensive to SBPs 80s so was given 1L NS bolus around
   4am.
   -Hct check done and 32.9
   -sister was to come but never did
   -needs ICU consent
   - heparin gtt decreaseed
   -Pt seen by ENT this am-large hematoma noted.  Passed NG tube.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2106-12-20**] 04:52 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2106-12-20**] 01:59 AM
   Other medications:
   1000 mL NS 3. 1000 mL NS 4. Albuterol Inhaler 5. CeftriaXONE 6.
   Chlorhexidine Gluconate 0.12% Oral Rinse
   7. Docusate Sodium (Liquid) 8. Famotidine 9. Furosemide 10. Heparin 11.
   Ipratropium Bromide MDI
   12. Levofloxacin 13. Magnesium Sulfate 14. Norepinephrine 15.
   Oseltamivir 16. Potassium Chloride
   17. Potassium Chloride (Powder) 18. Potassium Chloride 19. Propofol 20.
   Senna 21. Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-12-20**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 82 (67 - 100) bpm
   BP: 96/61(68) {78/47(54) - 130/104(110)} mmHg
   RR: 20 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 15 (15 - 15)mmHg
   Total In:
                                                                    815 mL
                                                                  2,932 mL
   PO:
   TF:
   IVF:
                                                                    615 mL
                                                                  2,932 mL
   Blood products:
   Total out:
                                                                    480 mL
                                                                  1,150 mL
   Urine:
                                                                    480 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    335 mL
                                                                  1,782 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (500 - 600) mL
   Vt (Spontaneous): 790 (281 - 790) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/35/109/19/-4
   Ve: 14 L/min
   PaO2 / FiO2: 182
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   108 K/uL
   11.1 g/dL
   102 mg/dL
   0.8 mg/dL
   19 mEq/L
   3.4 mEq/L
   11 mg/dL
   115 mEq/L
   145 mEq/L
   30.4 %
   5.2 K/uL
        [image002.jpg]
                            [**2106-12-19**]  10:43 PM
                            [**2106-12-19**]  11:25 PM
                            [**2106-12-19**]  11:52 PM
                            [**2106-12-20**]  03:23 AM
                            [**2106-12-20**]  03:48 AM
                            [**2106-12-20**]  05:20 AM
   WBC
   5.2
   5.2
   Hct
   34.5
   32.9
   30.4
   Plt
   117
   108
   Cr
   0.8
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   21
   21
   21
   Glucose
   107
   102
   Other labs: PT / PTT / INR:14.9/55.3/1.3, CK / CKMB /
   Troponin-T:1049/8/<0.01, Ca++:7.1 mg/dL, Mg++:1.5 mg/dL, PO4:1.5 mg/dL
   Imaging: [**12-19**] CT CHEST: There are filling defects within the right
   subsegmental arteries (3, 14 and 3, 26) supplying the anterior and
   posterior segments. In addition, filling defects involving the right
   middle lobe subsegmental branches (3, 47) are also identified. There
   are possible left upper lobe subgmental pulmonary emboli (3,24). There
   are bilateral lower lobe consolidations with air
   bronchograms (3, 57). While this may represent atelectasis as it is
   enhancing, underlying infection cannot be excluded given the presence
   of air
   bronchograms. There are multiple mediastinal and left hilar lymph
   nodes. For example, at example, there is a left hilar lymph node
   measuring 1.3 x 1.5 cm (3, 43). A prevascular lymph node measures 0.7 x
   2.3 cm (3, 27). There is no axillary lymphadenopathy identified. There
   is no pleural effusion. Very trace pericardial fluid vs thickening is
   noted. There is no evidence of aortic dissection. No pneumothorax is
   seen. Gynecomastia is noted.
   CT OF THE ABDOMEN: The spleen, liver, gallbladder, pancreas, adrenal
   glands and kidneys are unremarkable. There is mild amount of
   perinephric fat
   stranding, bilaterally, nonspecific. Multiple small, subcentimeter
   retroperitoneal lymph nodes are noted. Small bowel loops are collapsed.
   There
   is no free fluid or free air.
   CT OF THE PELVIS: The rectum, sigmoid colon are unremarkable and
   contains large amount of stool and air. A Foley catheter is identified
   within the
   bladder. There is no pelvic or inguinal lymphadenopathy.
   BONE WINDOWS: There are no suspicious lytic or sclerotic lesions
   identified.
   IMPRESSION:
   1. Small right-sided subsegmental pulmonary emboli as described above.
   Possible left upper lobe subgmental pulmonary emboli. No evidence of
   right
   heart strain.
   2. Bilateral lower lobe atelectasis; underlying infection not excluded.
   3. Mediastinal lymphadenopathy.
   4. No acute intra-abdominal pathology noted.
   Microbiology: blood, urine ctx [**12-19**] pending
   DFA [**12-19**] pending
   sputum [**12-19**] pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY EMBOLISM (PE), ACUTE
   62 yo male with hx of Crohns, hypertension, seizure d/o, tranfered from
   [**Hospital3 **] s/p respiratory distress and intubation.
   #.  Hypoxic Respiratory Failure: Differential includes pneumonia,
   pulmonary embolism, CHF, COPD.  No known history to support CHF and
   COPD and CXR not convincing for pulmonary edema.  History of cough,
   fever, and URI-like illness most consistent with infectious process,
   and differential includes ILI and/or bacterial pneumonia.  Odd that
   there is not an elevation of WBC.  Patient is persumed to be
   community-based.  Patient seemed to have low BPs in ED compared to
   baseline, so sepsis-physiology is possible. PSI 127 not knowing medical
   history, with a mortality of approximately 10%.
   - treatement for influenza with Tamiflu, send NFS, droplet precautions
   until ruled out
   - standing nebs
   - continue treatment for CAP with Levofloxacin/Ceftriaxone.  D1: [**12-19**]
   for persumed 10 day course.
   - b/l LE U/S
   - consider TTE given unknown PMH, and apararent flashe edema last pm
   with HTN
   .
   #.  Fever: Likely due to infectious process
   - f/u culture data, including any which may have been obtained at
   [**Hospital3 **]
   .
   #  Unresponsiveness: Likely secondary to sedation, however given lack
   of history, not unreasonable to CT head and/or LP given risk of strep
   pneumo and meningitis.
   - urine tox
   .
   # elevated CKs to 1000s: differential includes seizures, especially
   given medications
   - consider neurology consult, EEG
   - consider Trileptal level, though this is a send out
   .
   #.  Bradycardia: Patient had episode of HRs to 40s with attempted
   insertion of NG tube.  Tube was immediately withdrawn and HR increased
   to high 60s.
   - [**Hospital1 7**] lytes and repletion
   - monitor on telemetry
   .
   #. Thrombocytopenia: continue to monitor given Heparin use
   .
   #.  Hypertension: Currently not hypertensive.  Does not appear that he
   is on home medications
   .
   #.  Crohn's Disease:
   - investigate home medications
   .
   #.  Psychiatric dz:
   - investigate home medications
   ICU Care
   Nutrition:
   Comments: NPO pending NG placement (put in order for fluoro)
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-12-19**] 07:32 PM
   18 Gauge - [**2106-12-19**] 08:01 PM
   Arterial Line - [**2106-12-19**] 10:35 PM
   Multi Lumen - [**2106-12-20**] 12:11 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) **] father, [**Name (NI) 135**] [**Name (NI) 12132**] SR, ph
   [**Telephone/Fax (1) 12133**] (nonworking number), Sister was supposed to come in
   Code status: Full code, presumed
   Disposition: ICU level care for now

2106-12-20 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2106-12-19**] 07:15 PM
 NASAL SWAB - At [**2106-12-19**] 08:00 PM
 ARTERIAL LINE - START [**2106-12-19**] 10:35 PM
 MULTI LUMEN - START [**2106-12-20**] 12:11 AM
   -was put on PS 10/5/60% however ABG: 7.2/52/100 so was switched back to
   AC
   -Pt initially very difficult to ventilate. Pt had a prolonged forced
   exhalation that did not improve with fent/versed. Developed
   bronchospasm and produced large amts of thick frothy bloody sput. Peep
   increased to 10 due to probable airtrapping. Pt overbreathing
   consistently so volume / rate increased. Sedation changed to prop with
   better ventilatory pattern established.
   -placed a line and CVL
   -found OG tube to be curled in mouth so attempt was made to replace
   with NG however patient brady to 40s and withdrawn
   -. At this point patient given Lasix and put out approximately 1L, and
   then became hypotensive to SBPs 80s so was given 1L NS bolus around
   4am.
   -Hct check done and 32.9
   -sister was to come but never did
   -needs ICU consent
   - heparin gtt decreased then stopped due to frank blood from mouth and
   pink fluid from tube
   -Pt seen by ENT this am-large abrasion in OP noted.  Passed OG tube.
   -started on norepi this am to maintain BPs
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2106-12-20**] 04:52 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2106-12-20**] 01:59 AM
   Other medications:
   1000 mL NS 3. 1000 mL NS 4. Albuterol Inhaler 5. CeftriaXONE 6.
   Chlorhexidine Gluconate 0.12% Oral Rinse
   7. Docusate Sodium (Liquid) 8. Famotidine 9. Furosemide 10. Heparin 11.
   Ipratropium Bromide MDI
   12. Levofloxacin 13. Magnesium Sulfate 14. Norepinephrine 15.
   Oseltamivir 16. Potassium Chloride
   17. Potassium Chloride (Powder) 18. Potassium Chloride 19. Propofol 20.
   Senna 21. Sodium Chloride 0.9% Flush
   Changes to medical and family history: per brother and sister, no HCP.
   [**Name (NI) **] are very distressed about this illness and cannot handle that
   responsibilit.  State that pt. never smoked, no hx of COPD or CHF.  Had
   been ill X2 weeks, with increased bed rest.  Unknown PCP.  [**Name10 (NameIs) **] of
   depression, seziure d/o, ?cdiff.  Had not had a seizure in >1-2 years.
   Home medications:
   [**First Name8 (NamePattern2) **] [**Location (un) 1961**] CVS:
   Folic Acid 1mg daily
   Zyprexa 20mg daily
   Furosemide 20mg daily
   Oxcarbazepine 900mg QHS
   Lexapro 10mg daily
   bromoline eye drops
   Zonisamide 300mg QHS
   Depakote 500mg ER daily
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-12-20**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 82 (67 - 100) bpm
   BP: 96/61(68) {78/47(54) - 130/104(110)} mmHg
   RR: 20 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 15 (15 - 15)mmHg
   Total In:
                                                                    815 mL
                                                                  2,932 mL
   PO:
   TF:
   IVF:
                                                                    615 mL
                                                                  2,932 mL
   Blood products:
   Total out:
                                                                    480 mL
                                                                  1,150 mL
   Urine:
                                                                    480 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    335 mL
                                                                  1,782 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (500 - 600) mL
   Vt (Spontaneous): 790 (281 - 790) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/35/109/19/-4
   Ve: 14 L/min
   PaO2 / FiO2: 182
   Physical Examination
   Gen: nonresponsive to command, voice or tactile stimuli
   Pupils sluggish but equally reactive
   CV: rrr nls1/s2 no m
   Pulm: clearer BS versus yesterday
   Abd: +BS, distended, soft, N
   Ext: trace edema
   Labs / Radiology
   108 K/uL
   11.1 g/dL
   102 mg/dL
   0.8 mg/dL
   19 mEq/L
   3.4 mEq/L
   11 mg/dL
   115 mEq/L
   145 mEq/L
   30.4 %
   5.2 K/uL
        [image002.jpg]
                            [**2106-12-19**]  10:43 PM
                            [**2106-12-19**]  11:25 PM
                            [**2106-12-19**]  11:52 PM
                            [**2106-12-20**]  03:23 AM
                            [**2106-12-20**]  03:48 AM
                            [**2106-12-20**]  05:20 AM
   WBC
   5.2
   5.2
   Hct
   34.5
   32.9
   30.4
   Plt
   117
   108
   Cr
   0.8
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   21
   21
   21
   Glucose
   107
   102
   Other labs: PT / PTT / INR:14.9/55.3/1.3, CK / CKMB /
   Troponin-T:1049/8/<0.01, Ca++:7.1 mg/dL, Mg++:1.5 mg/dL, PO4:1.5 mg/dL
   Imaging: [**12-19**] CT CHEST: There are filling defects within the right
   subsegmental arteries (3, 14 and 3, 26) supplying the anterior and
   posterior segments. In addition, filling defects involving the right
   middle lobe subsegmental branches (3, 47) are also identified. There
   are possible left upper lobe subgmental pulmonary emboli (3,24). There
   are bilateral lower lobe consolidations with air
   bronchograms (3, 57). While this may represent atelectasis as it is
   enhancing, underlying infection cannot be excluded given the presence
   of air
   bronchograms. There are multiple mediastinal and left hilar lymph
   nodes. For example, at example, there is a left hilar lymph node
   measuring 1.3 x 1.5 cm (3, 43). A prevascular lymph node measures 0.7 x
   2.3 cm (3, 27). There is no axillary lymphadenopathy identified. There
   is no pleural effusion. Very trace pericardial fluid vs thickening is
   noted. There is no evidence of aortic dissection. No pneumothorax is
   seen. Gynecomastia is noted.
   CT OF THE ABDOMEN: The spleen, liver, gallbladder, pancreas, adrenal
   glands and kidneys are unremarkable. There is mild amount of
   perinephric fat
   stranding, bilaterally, nonspecific. Multiple small, subcentimeter
   retroperitoneal lymph nodes are noted. Small bowel loops are collapsed.
   There
   is no free fluid or free air.
   CT OF THE PELVIS: The rectum, sigmoid colon are unremarkable and
   contains large amount of stool and air. A Foley catheter is identified
   within the
   bladder. There is no pelvic or inguinal lymphadenopathy.
   BONE WINDOWS: There are no suspicious lytic or sclerotic lesions
   identified.
   IMPRESSION:
   1. Small right-sided subsegmental pulmonary emboli as described above.
   Possible left upper lobe subgmental pulmonary emboli. No evidence of
   right
   heart strain.
   2. Bilateral lower lobe atelectasis; underlying infection not excluded.
   3. Mediastinal lymphadenopathy.
   4. No acute intra-abdominal pathology noted.
   Microbiology: blood, urine ctx [**12-19**] pending
   DFA [**12-19**] pending
   sputum [**12-19**] pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY EMBOLISM (PE), ACUTE
   62 yo male with hx of Crohns, hypertension, seizure d/o, tranfered from
   [**Hospital3 **] s/p respiratory distress and intubation.
   #.  Hypoxic Respiratory Failure: Differential includes pneumonia,
   pulmonary embolism, CHF, COPD.  No known history to support CHF and
   COPD and initial CXR not convincing for pulmonary edema.  History of
   cough, fever, and URI-like illness most consistent with infectious
   process and differential includes ILI and/or bacterial pneumonia.  Odd
   that there is not an elevation of WBC.  Patient is presumed to be
   community-based.  Patient seemed to have low BPs in ED compared to
   baseline, so sepsis-physiology is possible. PSI 127 not knowing medical
   history, with a mortality of approximately 10%.
   - treatement for influenza with Tamiflu, send NFS, droplet precautions
   until ruled out
   - standing nebs
   - continue treatment for CAP with Levofloxacin/Ceftriaxone.  D1: [**12-19**]
   for persumed 10 day course.
   - b/l LE U/S
   - TTE given unknown PMH, and flash pulmonary edema last pm with HTN
   -decrease fi02 to 50%
   - restart heparin gtt at 1500.
   .
   #.  Fever: Likely due to infectious process, however can be caused by a
   PE
   - f/u culture data, including any which may have been obtained at
   [**Hospital3 **]
   .
   #  Unresponsiveness: Likely secondary to sedation, and now that has
   reasonable history for good MS, reasonable to put CT/LP and neuro
   workup for seizure on the backburner
   - lighten propofol
   - urine tox
   .
   # elevated CKs to 1000s: differential includes seizures, rhabdo,
   inactivity, though not at an alarming level
   - recheck in pm
   .
   #.  Bradycardia: Patient had episode of HRs to 40s with attempted
   insertion of NG tube.  Tube was immediately withdrawn and HR increased
   to high 60s.
   - [**Hospital1 7**] lytes and repletion
   - monitor on telemetry
   .
   #. Thrombocytopenia: continue to monitor given Heparin use, though was
   only in the 120s at OSH
   -check in pm
   .
   #.  Hypertension: Currently not hypertensive.  Does not appear that he
   is on home medications
   .
   #.  Crohn's Disease:  does not appear to be on any medications
   currently
   .
   #.  Depression/Seizure history: restart home meds
   ICU Care
   Nutrition:
   Comments: NPO pending bleeding stability
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-12-19**] 07:32 PM
   18 Gauge - [**2106-12-19**] 08:01 PM
   Arterial Line - [**2106-12-19**] 10:35 PM
   Multi Lumen - [**2106-12-20**] 12:11 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) **] father, [**Name (NI) 135**] [**Name (NI) 12132**] SR, ph
   [**Telephone/Fax (1) 12133**] (nonworking number), Sister was supposed to come in
   Code status: Full code, presumed
   Disposition: ICU level care for now, ICU consent completed this am

2106-12-21 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2106-12-20**] 10:00 AM
 TRANSTHORACIC ECHO - At [**2106-12-20**] 10:34 AM
 BLOOD CULTURED - At [**2106-12-20**] 07:27 PM
 URINE CULTURE - At [**2106-12-20**] 07:27 PM
 FEVER - 102.6
F - [**2106-12-20**] 08:00 PM
   - CVP 12, CvO2 87
   - Updated family
   - New PCP at [**Name9 (PRE) 608**] Dr. [**Last Name (STitle) 12157**] [**Name (STitle) 1751**] [**Telephone/Fax (1) 12158**], Prior was Dr. [**Last Name (STitle) 12159**]
   in [**Hospital1 358**] at Caritas.  Spoke with Dr.[**Name (NI) 12160**] nurse who said he was
   recently seen for cough on [**12-17**].  Had colonoscopy at [**Hospital3 **] in [**2103**],
   showed occassional cryptitis in rectum, some bowel wall edema, no
   evidence of malignancy.  Also apparently has h/o b12 deficiency.
   - Weaned Levophed off
   - Spiked fever to 102.5, sent blood, urine cx, gave tylenol
   - Gave 500cc bolus at 4am for decreased UOP, concentrated urine and
   hypotension
   Tolerated decreasing FiO2 from 60 to 40% and decreased PEEP from 10 to
   8
   -RSBI 44 this am- awake and following commands
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2106-12-20**] 08:22 AM
   Levofloxacin - [**2106-12-21**] 06:50 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   500 mL NS 3. Acetaminophen 4. Albuterol Inhaler 5. Calcium Gluconate 6.
   CeftriaXONE 7. Chlorhexidine Gluconate 0.12% Oral Rinse
   8. Divalproex (EXTended Release) 9. Docusate Sodium (Liquid) 10.
   Escitalopram Oxalate 11. Famotidine
   12. Heparin 13. Ipratropium Bromide MDI 14. Levofloxacin 15.
   Norepinephrine 16. Olanzapine 17. Oseltamivir
   18. Oxcarbazepine 19. Potassium Phosphate 20. Potassium Chloride 21.
   Propofol 22. Senna 23. Sodium Chloride 0.9% Flush
   24. Zonisamide
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-12-21**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.9
C (100.2
   HR: 81 (67 - 101) bpm
   BP: 122/68(85) {94/50(66) - 150/73(96)} mmHg
   RR: 22 (20 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 5 (4 - 14)mmHg
   Mixed Venous O2% Sat: 87 - 87
   Total In:
                                                                  4,958 mL
                                                                  1,085 mL
   PO:
   TF:
   IVF:
                                                                  4,898 mL
                                                                  1,005 mL
   Blood products:
   Total out:
                                                                  2,085 mL
                                                                    290 mL
   Urine:
                                                                  2,085 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,873 mL
                                                                    795 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 98%
   ABG: 7.39/32/95.[**Numeric Identifier 143**]/20/-4
   Ve: 11.7 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Gen: unarousable to voice or touch
   PEERL
   CV: rrr nl s1s2 no mrg
   Pulm: much clearer vs yesterday, crackles at bases
   Abd: +BS, distended, NT
   Ext: trace b/l edema
   Labs / Radiology
   109 K/uL
   10.1 g/dL
   129 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.5 mEq/L
   11 mg/dL
   115 mEq/L
   137 mEq/L
   30.0 %
   5.3 K/uL
        [image002.jpg]
                            [**2106-12-19**]  10:43 PM
                            [**2106-12-19**]  11:25 PM
                            [**2106-12-19**]  11:52 PM
                            [**2106-12-20**]  03:23 AM
                            [**2106-12-20**]  03:48 AM
                            [**2106-12-20**]  05:20 AM
                            [**2106-12-20**]  04:09 PM
                            [**2106-12-21**]  12:53 AM
                            [**2106-12-21**]  03:51 AM
   WBC
   5.2
   5.2
   7.4
   5.3
   Hct
   34.5
   32.9
   30.4
   31.7
   30.0
   Plt
   117
   108
   117
   109
   Cr
   0.8
   0.8
   0.7
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   21
   21
   21
   20
   Glucose
   107
   102
   111
   129
   Other labs: PT / PTT / INR:15.6/111.3/1.4, CK / CKMB /
   Troponin-T:936/8/<0.01, ALT / AST:37/39, Alk Phos / T Bili:72/0.4,
   Differential-Neuts:81.5 %, Lymph:14.7 %, Mono:3.4 %, Eos:0.2 %,
   Albumin:3.0 g/dL, LDH:219 IU/L, Ca++:7.7 mg/dL, Mg++:2.4 mg/dL, PO4:2.4
   mg/dL
   Fluid analysis / Other labs:
    Iron 12
   Ferritn 187
   TRF 153
   TIBC 199
   B12 1243
   Folate 16.8
   Imaging:
   - Ordered CT abd/pelvis for malignancy w/u due to adenopathy on CT
   chest.  showed worsening pneumonia and some fluid around the gall
   bladder that wasn't there before.
   - TTE: LVEF>55%, mild to moderate pulmonary artery systolic HTN
   - LENIs: Left popliteal aneurysm with slow flow, no evidence of DVT on
   either side
   Microbiology: [**Hospital3 611**] cultures: Blood cultures no growth x 1
   day, also showed platelets of 127 (baseline was 208 on [**2106-11-17**],
   hematocrit of 42.9 on [**2106-11-17**])
   blood ctx 12/13,14,15 pending
   urine [**12-20**], [**12-21**] pending
   sputum [**12-19**] SPARSE GROWTH Commensal Respiratory Flora.
   DFA [**12-19**] +Influenza A, negative B
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY EMBOLISM (PE), ACUTE
   62 yo male with hx of Crohns, hypertension, seizure d/o, tranfered from
   [**Hospital3 **] s/p respiratory distress and intubation.
   #.  Hypoxic Respiratory Failure: Likely due to influenza with possible
   superimposed bacterial infection.  Also due to known Pes.  Echo
   suggests mild diastolic CHF.  Patient with occassionally low BPs in ED
   so sepsis-physiology is possible.
   -bronch today due to lymph nodes to eval for malignancy
   - treatement for influenza with Tamiflu, consider increase dose to 150
   mg [**Hospital1 7**], can be used for up 6 weeks.  Consider continuing while
   hospitalized. , will discuss with ID
   - standing nebs
   - continue treatment for CAP with Levofloxacin/Ceftriaxone.  D1: [**12-19**]
   for persumed 10 day course.
   - cont Heparin gtt, start coumadin once more stable bleeding over next
   2 days
   - resent sputum
   #.  Fever: Likely due to infectious process, however can be caused by a
   PE
   - f/u culture data, including any which may have been obtained at
   [**Hospital3 **]
   #  Unresponsiveness: Likely secondary to sedation, and now that has
   reasonable history for good MS [**First Name (Titles) **] [**Last Name (Titles) 3795**] this am once sedation,
   reasonable to put CT/LP and neuro workup for seizure on the
   backburner.  Urine tox negative.
   # anemia: iron-deficient on studies.  B12 repleted
   -could be related to possible malignancy
   -start iron as outpatient
   # elevated CKs to 900s-1000s: possibly due to inactivity
   -continue to monitor daily
   #. Thrombocytopenia: 119 at admission here, now 109.  was 127 at OSH.
   -monitor daily
   #.  Depression/Seizure history: restarted home meds
   -changed valproic acid to [**Hospital1 7**] for crushing
   ICU Care
   Nutrition: pending extubation, possibly today
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-12-19**] 07:32 PM
   18 Gauge - [**2106-12-19**] 08:01 PM
   Arterial Line - [**2106-12-19**] 10:35 PM
   Multi Lumen - [**2106-12-20**] 12:11 AM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer:  H2B
   VAP:
   Comments:  increase bowel regimen
   Communication:  Comments: [**Name (NI) **] brother, [**Name (NI) **] [**Name (NI) 12132**] [**Telephone/Fax (1) 12164**], cell [**Telephone/Fax (1) 12165**]; sister, [**Name (NI) 12166**] [**Name (NI) 12167**] [**Telephone/Fax (1) 12168**]
   Code status: Full code
   Disposition: ICU level of care

2106-12-22 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Gave 500 cc bolus for decreased UOP at 1pm and 8:30 pm
   -tube feeds started
   [**Hospital3 12184**] cultures: [**Telephone/Fax (1) 12185**] ,NGTD X2 days
   -tamiflu increased to 150 [**Hospital1 7**]
   -ID recs: continue current regimen with tamiflu, only change to
   peramivir if evidence that not absorbing (like no stool) or if he
   clinically deteriorates.  Would not start vanc unless takes turn for
   the worse, or if gpcs foound in BAL.  Consider seizure activity if he
   does not wake up with lightened sedation, as tamiflu can lower seizure
   threshold.
   -plan for bronch tomorrow
   - on PS 8/0 and did well, then changed to 5/5
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2106-12-21**] 07:50 AM
   Tamiflu - [**2106-12-21**] 07:59 PM
   Levofloxacin - [**2106-12-22**] 06:32 AM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2106-12-21**] 01:31 PM
   Heparin Sodium - [**2106-12-22**] 12:02 AM
   Other medications:
   500 mL NS 3. 500 mL NS 4. Acetaminophen 5. Albuterol Inhaler 6.
   CeftriaXONE 7. Chlorhexidine Gluconate 0.12% Oral Rinse
   8. Docusate Sodium (Liquid) 9. Escitalopram Oxalate 10. Famotidine 11.
   Heparin 12. Ipratropium Bromide MDI
   13. Levofloxacin 14. Olanzapine 15. Oseltamivir 16. Oseltamivir 17.
   Oxcarbazepine 18. Polyethylene Glycol
   19. Potassium Phosphate 20. Potassium Chloride 21. Propofol 22. Senna
   23. Sodium Chloride 0.9% Flush
   24. Valproic Acid 25. Zonisamide
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-12-22**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.9
C (98.5
   HR: 64 (58 - 79) bpm
   BP: 141/73(95) {104/57(72) - 144/75(96)} mmHg
   RR: 20 (19 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 16 (5 - 17)mmHg
   Total In:
                                                                  3,039 mL
                                                                    563 mL
   PO:
   TF:
                                                                    143 mL
                                                                    153 mL
   IVF:
                                                                  2,766 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    380 mL
   Urine:
                                                                    935 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,104 mL
                                                                    183 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 600) mL
   Vt (Spontaneous): 618 (618 - 618) mL
   RR (Set): 0
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 36 cmH2O
   Plateau: 21 cmH2O
   Compliance: 46.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/30/120/18/-2
   Ve: 11.7 L/min
   PaO2 / FiO2: 300
   Physical Examination
   Gen: NAD, responding more to voice, opens eyes slowly
   CV: RRR nl s1s2 no mrg
   Pulm: CTA b/l
   Abd: unchanged distention, +BS, soft NTND
   Ext: trace edema, warm, good pulses
   Labs / Radiology
   118 K/uL
   9.8 g/dL
   122 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.5 mEq/L
   12 mg/dL
   115 mEq/L
   141 mEq/L
   29.0 %
   5.1 K/uL
        [image002.jpg]
                            [**2106-12-19**]  11:25 PM
                            [**2106-12-19**]  11:52 PM
                            [**2106-12-20**]  03:23 AM
                            [**2106-12-20**]  03:48 AM
                            [**2106-12-20**]  05:20 AM
                            [**2106-12-20**]  04:09 PM
                            [**2106-12-21**]  12:53 AM
                            [**2106-12-21**]  03:51 AM
                            [**2106-12-21**]  04:32 PM
                            [**2106-12-22**]  03:47 AM
   WBC
   5.2
   5.2
   7.4
   5.3
   5.1
   Hct
   34.5
   32.9
   30.4
   31.7
   30.0
   29.0
   Plt
   117
   108
   117
   109
   118
   Cr
   0.8
   0.8
   0.7
   0.9
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   21
   21
   20
   21
   Glucose
   107
   102
   111
   129
   122
   Other labs: PT / PTT / INR:14.6/81.6/1.3, Albumin:3.0 g/dL, Ca++:7.4
   mg/dL (8.2), Mg++:2.4 mg/dL, PO4:1.6 mg/dL
   [**12-21**] cdiff, fecal ctx pending
   [**12-21**] sputum >25 PMNs and <10 epithelial cells/100X field, no organisms
   seen, ctx pending
   [**12-21**], 14, 13 blood pending
   [**12-20**] urine final neg
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY EMBOLISM (PE), ACUTE
   62 yo male with hx of Crohns, hypertension, seizure d/o, tranfered from
   [**Hospital3 **] s/p respiratory distress and intubation.
   #.  Hypoxic Respiratory Failure: Likely due to influenza with possible
   superimposed bacterial infection.  Also due to known Pes.  Echo
   suggests mild diastolic CHF.  Patient with occassionally low BPs in ED
   so sepsis-physiology is possible.
   -bronch today due to lymph nodes to eval for malignancy
   - treatement for influenza with Tamiflu 150 mg [**Hospital1 7**], can be used for up
   6 weeks.  Consider continuing while hospitalized. , will discuss with
   ID
   - standing nebs
   - as all sputum ctxs negative so far (though taken after started
   antibiotics) change treatement  for CAP to Levofloxacin only, d/c
   Cefrtiaxone.  D1: [**12-19**] for 5 day course of Levofloxacin.
   - cont Heparin gtt, start coumadin once more stable bleeding over next
   2 days
   #.  Fever: Likely due to infectious process, however can be caused by a
   PE
   - f/u culture data, including any which may have been obtained at
   [**Hospital3 **]
   - d/c central line given mild erythema on rounds today, as long as we
   can get new PIVs first.  If not, may need picc
   # anemia: iron-deficient on studies.  B12 repleted
   -could be related to possible malignancy
   -start iron therapy
   # elevated CKs to 900s-1000s: possibly due to inactivity
   -continue to monitor daily, recheck this am, add to am labs
   #.  Depression/Seizure history: restarted home meds
   - continue home meds
   ICU Care
   Nutrition: restart TFs as extubation unlikely today
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer:  H2B
   Communication:  Comments: [**Name (NI) **] brother, [**Name (NI) **] [**Name (NI) 12132**] [**Telephone/Fax (1) 12164**], cell [**Telephone/Fax (1) 12165**]; sister, [**Name (NI) 12166**] [**Name (NI) 12167**] [**Telephone/Fax (1) 12168**]
   Code status: Full code
   Disposition: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-12-19**] 07:32 PM
   18 Gauge - [**2106-12-19**] 08:01 PM
   Arterial Line - [**2106-12-19**] 10:35 PM
   Multi Lumen - [**2106-12-20**] 12:11 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-12-23 07:38:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint: Respiratory failure
   24 Hour Events:
   -if CK starts to go up (however 500s today), keep in mind that he is on
   4 meds that can cause rhabdo.  All are at case report level, not very
   frequent.  Lexapro, zyprexa, levofloxacin, and propofol.  Both the
   levoflox and the propofol were started after the CK was noted to be
   high.
   -could not do bronchoscopy because tube too small, changed to AC in pm
   and plan to bronch with pedi scope tomorrow
   -got another PIV (now 2), did not pull CVL as nursing and PICC nursing
   felt OK with it.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2106-12-22**] 06:32 AM
   Ceftriaxone - [**2106-12-22**] 07:48 AM
   Tamiflu - [**2106-12-22**] 08:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-12-23**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.4
   HR: 66 (58 - 77) bpm
   BP: 125/62(80) {96/50(65) - 168/91(262)} mmHg
   RR: 21 (17 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 15 (12 - 15)mmHg
   Total In:
                                                                  2,143 mL
                                                                    802 mL
   PO:
   TF:
                                                                    672 mL
                                                                    380 mL
   IVF:
                                                                  1,397 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    470 mL
   Urine:
                                                                  2,300 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -157 mL
                                                                    332 mL
   Respiratory support
   O2 Delivery Device: None, Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 773 (773 - 773) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 17 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: ///21/
   Ve: 12.2 L/min
   Physical Examination
   Gen: NAD, responding to voice, opens eyes to command, squeezes hands
   bilaterally when asked
   CV: RRR nl s1s2 no mrg
   Pulm: CTA bilaterally with ventilator noises
   Abd: unchanged distention, +BS, soft NTND
   Ext: trace edema, warm, good pulses
   Labs / Radiology
   153 K/uL
   9.5 g/dL
   139 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.2 mEq/L
   13 mg/dL
   113 mEq/L
   142 mEq/L
   28.1 %
   4.5 K/uL
        [image002.jpg]
                            [**2106-12-19**]  11:52 PM
                            [**2106-12-20**]  03:23 AM
                            [**2106-12-20**]  03:48 AM
                            [**2106-12-20**]  05:20 AM
                            [**2106-12-20**]  04:09 PM
                            [**2106-12-21**]  12:53 AM
                            [**2106-12-21**]  03:51 AM
                            [**2106-12-21**]  04:32 PM
                            [**2106-12-22**]  03:47 AM
                            [**2106-12-23**]  04:19 AM
   WBC
   5.2
   7.4
   5.3
   5.1
   4.5
   Hct
   32.9
   30.4
   31.7
   30.0
   29.0
   28.1
   Plt
   108
   117
   109
   118
   153
   Cr
   0.8
   0.7
   0.9
   0.6
   0.7
   TropT
   <0.01
   TCO2
   21
   21
   20
   21
   Glucose
   102
   111
   129
   122
   139
   Other labs: PT / PTT / INR:13.6/59.0/1.2, CK / CKMB /
   Troponin-T:253/8/<0.01, ALT / AST:37/39, Alk Phos / T Bili:72/0.4,
   Differential-Neuts:81.5 %, Lymph:14.7 %, Mono:3.4 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:219 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   CK 253
[**2106-12-21**] 10:38 pm STOOL     CONSISTENCY: SOFT      Source: Stool.
   FECAL CULTURE (Pending):
   CAMPYLOBACTER CULTURE (Pending):
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2106-12-22**]):
      Feces negative for C.difficile toxin A & B by EIA.
           (Reference Range-Negative).
[**2106-12-21**] 2:53 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2106-12-22**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
   [**Date range (1) 12198**] blood cx pending
   CXR from [**12-22**]
   There is interval decrease in the lung volumes. There is progression of
   pulmonary edema as well as interval increase in bibasal consolidations.
   The
   ET tube tip is significantly impinging the left tracheal wall and
   should be
   re-positioned. The tip is approximately 3 cm above the carina. The
   right
   internal jugular line is at the level of cavoatrial junction and the NG
   tube
   tip is in the stomach.
   CXR ordered for today in POE
   Assessment and Plan
   62 yo male with history of Crohn
s, hypertension, seizure d/o,
   transferred from [**Hospital3 **] s/p respiratory distress and
   intubation.
    #.  Hypoxic Respiratory Failure: Likely due to influenza with possible
   superimposed bacterial infection.  Also due to known PEs.  Echo
   suggests mild diastolic CHF.  Patient with occassionally low BPs in ED
   so sepsis-physiology is possible.
   - bronch today with pediatric scope (because ETT small) due to lymph
   nodes to eval for malignanc
   - treatment for influenza with Tamiflu 150 mg [**Hospital1 7**], can be used for up 6
   weeks
   - standing nebs
   - As all sputum ctxs negative so far (though taken after started
   antibiotics) change treatment  for CAP to Levofloxacin only, have
   stopped Ceftriaxone.  D1: [**12-19**] for 5 day course of Levofloxacin
   today will be last day
   - for PE, cont Heparin gtt and can start Coumadin 5mg po today
   - Will leave patient on AC ventilation until bronch, then switch to PS
   to see how much minute ventilation he requires
   - Check dead space ventilation measurement today
   - Repeat CXR/ABG to assess for interval change
   - Switch sedation from propofol to fentanyl and midazolam
   #  Fever: Likely due to infectious process, however can be caused by a
   PE.  Low-grade temperatures at night mainly.
   - f/u culture data, including any which may have been obtained at
   [**Hospital3 **]
   # Anemia: Iron-deficient on studies.  B12 repleted
   - guaiac all stools
   - could be related to possible malignancy
   - started iron therapy yesterday
   # Elevated CKs to 900s-1000s: Possibly due to inactivity or viral
   illness, less likely seizures.  Now downtrending
   -continue to monitor daily
   #.  Depression/Seizure history: Restarted home meds, will monitor for
   increasing CK
   - continue home meds
   ICU Care
   Nutrition: Replete with Fiber (Full) - [**2106-12-23**] 03:29 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-12-19**] 10:35 PM
   Multi Lumen - [**2106-12-20**] 12:11 AM
 will dc central line today
   18 Gauge - [**2106-12-22**] 03:17 PM
 has 2 peripheral IVs
   Prophylaxis:
   DVT: Heparin gtt, starting Coumadin
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) **] brother, [**Name (NI) **] [**Name (NI) 12132**] [**Telephone/Fax (1) 12164**], cell [**Telephone/Fax (1) 12165**]; sister, [**Name (NI) 12166**] [**Name (NI) 12167**] [**Telephone/Fax (1) 12168**]
   Code status: Full code
   Disposition: ICU level of care

2106-12-24 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2106-12-23**] 04:26 PM
   - Didn't bronch because pedi scope unavailable
   - ABG 7.45/29/115, VD/VT was 51%, CXR similar to previous and ETT looks
   okay
   - Removed central venous line
   - SBT in the morning planned, hold tube feeds at 12am.  If passes in
   the morning, will try to extubate him.
   - Switched to fentanyl/midazolam boluses, but he was very uncomfortable
   and agitated, had to significantly increase the doses
   - checked triglycerides: 91 so switched back to propofol for sedation
   - ID recs: continue tamiflu for at least 7 days, then reassess, culture
   if febrile
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2106-12-22**] 06:32 AM
   Ceftriaxone - [**2106-12-22**] 07:48 AM
   Tamiflu - [**2106-12-22**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2106-12-23**] 07:39 PM
   Fentanyl - [**2106-12-23**] 07:52 PM
   Heparin Sodium - [**2106-12-24**] 05:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-12-24**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 63 (57 - 71) bpm
   BP: 135/61(82) {100/52(68) - 153/81(105)} mmHg
   RR: 20 (14 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 20 (16 - 25)mmHg
   Total In:
                                                                  2,311 mL
                                                                    210 mL
   PO:
   TF:
                                                                  1,189 mL
   IVF:
                                                                  1,032 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                  1,020 mL
   Urine:
                                                                  2,330 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -19 mL
                                                                   -810 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 432 (432 - 582) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 98%
   ABG: 7.44/32/82.[**Numeric Identifier 143**]/20/0 resp alkalosis
   Ve: 14.8 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Gen: NAD, responding to voice, opens eyes to command, squeezes hands
   bilaterally when asked, moves toes
   CV: RRR nl s1s2 no mrg
   Pulm: CTA bilaterally with ventilator noises
   Abd: unchanged distention, +BS, soft NTND
   Ext:increased UE edema, R>L,  trace edema in LE b/l, warm, good pulses
   Labs / Radiology
   214 K/uL
   10.1 g/dL
   105 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.9 mEq/L
   12 mg/dL
   114 mEq/L
   142 mEq/L
   30.2 %
   5.2 K/uL
        [image002.jpg]
                            [**2106-12-21**]  12:53 AM
                            [**2106-12-21**]  03:51 AM
                            [**2106-12-21**]  04:32 PM
                            [**2106-12-22**]  03:47 AM
                            [**2106-12-23**]  04:19 AM
                            [**2106-12-23**]  03:04 PM
                            [**2106-12-23**]  10:29 PM
                            [**2106-12-24**]  02:25 AM
                            [**2106-12-24**]  03:34 AM
                            [**2106-12-24**]  04:03 AM
   WBC
   5.3
   5.1
   4.5
   5.2
   Hct
   30.0
   29.0
   28.1
   30.2
   Plt
   109
   118
   153
   214
   Cr
   0.9
   0.6
   0.7
   0.6
   TCO2
   20
   21
   21
   23
   22
   22
   Glucose
   129
   122
   139
   105
   Other labs: PT / PTT / INR:13.3/48.8/1.1, CK / CKMB /
   Troponin-T:253/8/<0.01, ALT / AST:37/39, Alk Phos / T Bili:72/0.4,
   Differential-Neuts:81.5 %, Lymph:14.7 %, Mono:3.4 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:219 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR [**12-23**]: bilateral perivascular haze is seen in the
   pulmonary
   circulation. Hazy densities over the bases are consistent with some
   pleural
   effusion layering posteriorly and bilateral basal densities consistent
   with
   infiltrates.
   No CXR this AM
   Microbiology: [**12-21**] C diff neg, stool Cx pend
   [**12-21**] sputum gram stain neg, Cx pend
   [**12-19**], [**12-20**], [**12-21**] B Cx pend
   [**12-19**] H1N1 pos
   Assessment and Plan
   62 yo male with history of Crohn
s, hypertension, seizure d/o,
   transferred from [**Hospital3 **] s/p respiratory distress and
   intubation.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]), hypoxic: Likely due to
   influenza with possible superimposed bacterial infection.  Also due to
   known PEs.  Echo suggests mild diastolic CHF.  Unclear from records
   exactly why patient was intubated, but continues to have low lung
   volumes and significant atelectasis on CXR.
   - bronch unable to be performed yesterday because could not obtain
   pediatric scope (because ETT small), plan was to look for malignancy
   - Will again attempt to bronch today if adaptor for pediatric scope
   available
   - Per ID, tamiflu should continue for at least 7 days, then reassess;
   on Tamiflu 150 mg [**Hospital1 7**], can be used for up 6 weeks
   - standing nebs
   - As all sputum ctxs negative so far, completed treatment  for CAP with
   5 days Levofloxacin [**Date range (1) 12207**]
   - for PE, cont Heparin gtt and titrate up Coumadin to goal INR [**2-9**]
   - Patient sedated on propofol (attempts to change to fentanyl/midaz
   unsuccessful); will check TG every 2-3 days
   - will attempt to diurese patient for goal 2-3L neg today
   - low threshold for repeat chest CT if bronch unrevealing
   .
   # Altered Mental Status: Patient agitated when sedation weaned.  Per
   patient
s brother he is functional at baseline.
   - send RPR, TSH today (B12 checked and repleted)
   - will talk with pharmacy regarding seizure and psych meds to see if
   interacting
   - check dilantin level
   - wean sedation and assess patient for focal neurologic deficits
   - low threshold for head CT
   - low threshold for EEG if mental status remains altered with no clear
   cause
   .
 PULMONARY EMBOLISM (PE), ACUTE
   - started coumadin yesterday, will continue to titrate up
   .
   #  Fever: Likely due to infectious process, however can be caused by a
   PE.  Low-grade temperatures at night mainly.
   - f/u culture data, including any which may have been obtained at
   [**Hospital3 **]
   - will contact [**Hospital3 611**] today to check on prior cultures
   # Anemia: Iron-deficient on studies.  B12 repleted
   - guaiac all stools
   - could be related to possible malignancy
   - continue iron therapy
   # Elevated CKs to 900s-1000s: Possibly due to inactivity or viral
   illness, less likely seizures.  Now downtrending
   -continue to monitor daily, trending down.
   #.  Depression/Seizure history: Restarted home meds, will monitor for
   increasing CK
   - continue home meds
   - speak with pharmacy as above and check dilantin level
   ICU Care
   Nutrition: Tube feeds, replete with fiber.  On hold, will restart after
   bronch.
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-12-19**] 10:35 PM
   18 Gauge - [**2106-12-22**] 03:17 PM
   Prophylaxis:
   DVT: heparin gtt, coumadin
   Stress ulcer: famotidine
   VAP:
   Comments: bowel regimen with senna, colace, miralax
   Communication:  Comments: [**Name (NI) **] brother, [**Name (NI) **] [**Name (NI) 12132**] [**Telephone/Fax (1) 12164**], cell [**Telephone/Fax (1) 12165**]; sister, [**Name (NI) 12166**] [**Name (NI) 12167**] [**Telephone/Fax (1) 12168**]
   Code status: Full code
   Disposition: ICU

2106-12-25 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2106-12-24**] 12:51 PM
 EKG - At [**2106-12-24**] 06:35 PM
   - [**Hospital **] hosp: blood Cx NG x 4 days (final will be at 5 days)
   - TSH slightly up (4.9), sent free T4, valproate low at 13
   - bronch performed, showed no evidence of malignancy or infection.  No
   BAL done.
   - fever to 100.9 at noon, blood and urine cx sent
   - plan is to diurese today and attempt extubation tomorrow: neg 2.3 L
   at 10pm
   - weaned to PS [**8-14**]
   - per nursing, following commands when sedation lightened
   - contact[**Name (NI) **] neurologist Dr. [**Last Name (STitle) 12226**], faxed progress notes.  Pt with
   complex partial seizures, ataxia with evidence of cerebellar atropy on
   MR.  Was actually taking depakote ER 500 [**Hospital1 7**] at home, so increased to
   that dose, but immediate release since has to go thru OG tube.
   - need to make him poop tomorrow
   - ECG obtained, qtc normal
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2106-12-22**] 07:48 AM
   Tamiflu - [**2106-12-24**] 09:00 PM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2106-12-24**] 12:30 PM
   Other medications:
   Acetaminophen 2. Albuterol Inhaler 3. Bisacodyl 4. Chlorhexidine
   Gluconate 0.12% Oral Rinse 5. Docusate Sodium (Liquid)
   6. Escitalopram Oxalate 7. Famotidine 8. Ferrous Sulfate (Liquid) 9.
   Fentanyl Citrate 10. Heparin
   11. 12. Ipratropium Bromide MDI 13. Midazolam 14. Olanzapine 15.
   Oseltamivir 16. Oxcarbazepine
   17. Polyethylene Glycol 18. Propofol 19. Senna 20. Sodium Chloride 0.9%
   Flush 21. Valproic Acid
   22. Warfarin 23. Zonisamide
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-12-25**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.7
C (99.8
   HR: 62 (62 - 80) bpm
   BP: 100/55(71) {100/52(-9) - 179/93(123)} mmHg
   RR: 27 (17 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  1,688 mL
                                                                    366 mL
   PO:
             TF:
                                                                    510 mL
                                                                     65 mL
   IVF:
                                                                    908 mL
                                                                    301 mL
   Blood products:
   Total out:
                                                                  4,190 mL
                                                                  1,990 mL
   Urine:
                                                                  4,190 mL
                                                                  1,990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,502 mL
                                                                 -1,624 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 533 (430 - 556) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: 7.45/31/87.[**Numeric Identifier 181**]/21/0
   Ve: 13.9 L/min
   PaO2 / FiO2: 176
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   252 K/uL
   10.2 g/dL
   118 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.0 mEq/L
   11 mg/dL
   111 mEq/L
   142 mEq/L
   29.2 %
   7.6 K/uL
        [image002.jpg]
                            [**2106-12-23**]  04:19 AM
                            [**2106-12-23**]  03:04 PM
                            [**2106-12-23**]  10:29 PM
                            [**2106-12-24**]  02:25 AM
                            [**2106-12-24**]  03:34 AM
                            [**2106-12-24**]  04:03 AM
                            [**2106-12-24**]  09:38 AM
                            [**2106-12-24**]  05:50 PM
                            [**2106-12-25**]  03:54 AM
                            [**2106-12-25**]  04:20 AM
   WBC
   4.5
   5.2
   7.6
   Hct
   28.1
   30.2
   29.2
   Plt
   153
   214
   252
   Cr
   0.7
   0.6
   0.6
   TCO2
   21
   23
   22
   22
   21
   22
   22
   Glucose
   139
   105
   118
   Other labs: PT / PTT / INR:14.4/76.3/1.3, CK / CKMB / Troponin-T:129,
   Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: TG 139
   Assessment and Plan
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PULMONARY EMBOLISM (PE), ACUTE
 HYPOTENSION (NOT SHOCK)
   62 yo male with history of Crohn
s, hypertension, seizure d/o,
   transferred from [**Hospital3 **] s/p respiratory distress and
   intubation.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]), hypoxic: Likely due to
   influenza with possible superimposed bacterial infection.  Also due to
   known PEs.  Echo suggests mild diastolic CHF.  Unclear from records
   exactly why patient was intubated, but continues to have low lung
   volumes and significant atelectasis on CXR.
   - bronch unable to be performed yesterday because could not obtain
   pediatric scope (because ETT small), plan was to look for malignancy
   - Will again attempt to bronch today if adaptor for pediatric scope
   available
   - Per ID, tamiflu should continue for at least 7 days, then reassess;
   on Tamiflu 150 mg [**Hospital1 7**], can be used for up 6 weeks
   - standing nebs
   - As all sputum ctxs negative so far, completed treatment  for CAP with
   5 days Levofloxacin [**Date range (1) 12207**]
   - for PE, cont Heparin gtt and titrate up Coumadin to goal INR [**2-9**]
   - Patient sedated on propofol (attempts to change to fentanyl/midaz
   unsuccessful); will check TG every 2-3 days
   - will attempt to diurese patient for goal 2-3L neg today
   - low threshold for repeat chest CT if bronch unrevealing
   .
   # Altered Mental Status: Patient agitated when sedation weaned.  Per
   patient
s brother he is functional at baseline.
   - send RPR, TSH today (B12 checked and repleted)
   - will talk with pharmacy regarding seizure and psych meds to see if
   interacting
   - check dilantin level
   - wean sedation and assess patient for focal neurologic deficits
   - low threshold for head CT
   - low threshold for EEG if mental status remains altered with no clear
   cause
   .
 PULMONARY EMBOLISM (PE), ACUTE
   - started coumadin yesterday, will continue to titrate up
   .
   #  Fever: Likely due to infectious process, however can be caused by a
   PE.  Low-grade temperatures at night mainly.
   - f/u culture data, including any which may have been obtained at
   [**Hospital3 **]
   - will contact [**Hospital3 611**] today to check on prior cultures
   # Anemia: Iron-deficient on studies.  B12 repleted
   - guaiac all stools
   - could be related to possible malignancy
   - continue iron therapy
   # Elevated CKs to 900s-1000s: Possibly due to inactivity or viral
   illness, less likely seizures.  Now downtrending
   -continue to monitor daily, trending down.
   #.  Depression/Seizure history: Restarted home meds, will monitor for
   increasing CK
   - continue home meds
   - speak with pharmacy as above and check dilantin level
   ICU Care
   Nutrition: Tube feeds, replete with fiber.  On hold, will restart after
   bronch.
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-12-19**] 10:35 PM
   18 Gauge - [**2106-12-22**] 03:17 PM
   Prophylaxis:
   DVT: heparin gtt, coumadin
   Stress ulcer: famotidine
   VAP:
   Comments: bowel regimen with senna, colace, miralax
   Communication:  Comments: [**Name (NI) **] brother, [**Name (NI) **] [**Name (NI) 12132**] [**Telephone/Fax (1) 12164**], cell [**Telephone/Fax (1) 12165**]; sister, [**Name (NI) 12166**] [**Name (NI) 12167**] [**Telephone/Fax (1) 12168**]
   Code status: Full code
   Disposition: ICU

2106-12-25 10:22:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - normal airways
Diuresed overnight
                                      Patient unable to provide history: Sedated
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Tamiflu - [**2106-12-24**] 09:00 PM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2106-12-24**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-12-25**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.3
C (99.2
   HR: 64 (62 - 73) bpm
   BP: 97/49(65) {97/49(-9) - 160/77(100)} mmHg
   RR: 25 (17 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  1,688 mL
                                                                    491 mL
   PO:
             TF:
                                                                    510 mL
                                                                     65 mL
   IVF:
                                                                    908 mL
                                                                    426 mL
   Blood products:
   Total out:
                                                                  4,190 mL
                                                                  2,410 mL
   Urine:
                                                                  4,190 mL
                                                                  2,410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,502 mL
                                                                 -1,919 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 460 (450 - 556) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.45/31/87.[**Numeric Identifier 181**]/21/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 176
   Physical Examination
   Eyes / Conjunctiva: No(t) PERRL, pupils constricted
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, sedated
   Labs / Radiology
   10.2 g/dL
   252 K/uL
   118 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.0 mEq/L
   11 mg/dL
   111 mEq/L
   142 mEq/L
   29.2 %
   7.6 K/uL
        [image002.jpg]
                            [**2106-12-23**]  04:19 AM
                            [**2106-12-23**]  03:04 PM
                            [**2106-12-23**]  10:29 PM
                            [**2106-12-24**]  02:25 AM
                            [**2106-12-24**]  03:34 AM
                            [**2106-12-24**]  04:03 AM
                            [**2106-12-24**]  09:38 AM
                            [**2106-12-24**]  05:50 PM
                            [**2106-12-25**]  03:54 AM
                            [**2106-12-25**]  04:20 AM
   WBC
   4.5
   5.2
   7.6
   Hct
   28.1
   30.2
   29.2
   Plt
   153
   214
   252
   Cr
   0.7
   0.6
   0.6
   TCO2
   21
   23
   22
   22
   21
   22
   22
   Glucose
   139
   105
   118
   Other labs: PT / PTT / INR:14.4/76.3/1.3, CK / CKMB /
   Troponin-T:129/8/<0.01, ALT / AST:37/39, Alk Phos / T Bili:72/0.4,
   Differential-Neuts:81.5 %, Lymph:14.7 %, Mono:3.4 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:219 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 Respiratory failure,
   - continues on minimal vent support, no clear airway plugging on
   bronch, bilateral lower lobe collapse likely [**2-8**] effusions
   - now autodiuresing but still little effect seen on CXR
   - will awaken and SBT this afternoon, but will likely keep intubated
   until tomorrow when more diuresed
   - goal TBB - 2 to 3 L
 Influenza
   - tamiflu to end tomorrow, can come off precautions tomorrow
   -
 PULMONARY EMBOLISM (PE), ACUTE
   - bridging with heparin to coumadin, increase coumadin to 7.5mg today
 Fever
 Agitation: may be driven by dyspnea v. [**Last Name **] problem
   - will re-assess today when sedatio weaned
   - consider EEG and head CT if significantly altered
 Constipation
   - continue bowel regimen, will change to standing today
 Seizures
   - valproate increased, will re-check level
   ICU Care
   Nutrition:
   Comments: TF held pending SBT
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-12-19**] 10:35 PM
   20 Gauge - [**2106-12-25**] 01:14 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt, coumadin)
   Stress ulcer: H2 blocker
   VAP: Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2106-12-26 07:17:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint: Respiratory Failure
   24 Hour Events:
   -coumadin increased
   -[**Hospital1 **] cultures: final negative from [**12-19**]
   -ID: did not contact as day 7 is tomorrow and will ask then if should
   continue (they said either day 7 or 10), and d/c contact precautions
   (had fever today anyway)
   -weaned sedation but still thrashing and with lots of white
   secretions.  Decided best plan would be quick extubation.  As diuresing
   a lot and CXR still volume up will wait until Monday and give him time
   to mobbilize fluids from lung.
   -spiked to 100.4 at noon so started Vanc/Cefepime, sent sputum; ID
   approved
   -plan to change to presedex for sedation Sunday pm with plan of
   extubation Monday am
   -became tachypneic around 10pm: ABG and CXR done. 7.46/32/78 on PS so
   changed to AC still 7.44/34/77 and RR decreasing
   -net neg 2l for day and then another 1L right after m/n
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2106-12-25**] 09:00 PM
   Tamiflu - [**2106-12-25**] 09:00 PM
   Cefipime - [**2106-12-25**] 10:00 PM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-12-26**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 60 (58 - 83) bpm
   BP: 124/56(76) {97/43(60) - 131/57(78)} mmHg
   RR: 22 (22 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  2,368 mL
                                                                    345 mL
   PO:
             TF:
                                                                    762 mL
                                                                     41 mL
   IVF:
                                                                  1,515 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  4,410 mL
                                                                  1,640 mL
   Urine:
                                                                  4,410 mL
                                                                  1,640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,042 mL
                                                                 -1,295 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 520 (440 - 520) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 8
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 87
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: 7.44/34/77/21/0
   Ve: 14.8 L/min
   PaO2 / FiO2: 154
   Physical Examination
   Gen: Sleeping but will follow commands, open eyes and squeeze hands
   bilaterally to requests
   CV: RRR nl s1/s2 no mrg
   Pulm: Lungs relatively clear anteriorly
   Abd: Minimal BS, soft, distended, NT
   Ext: 1+ bilateral LE edema, warm and well-perfused
   Labs / Radiology
   307 K/uL
   10.0 g/dL
   133 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.9 mEq/L
   10 mg/dL
   110 mEq/L
   140 mEq/L
   30.3 %
   7.6 K/uL
        [image002.jpg]
                            [**2106-12-24**]  03:34 AM
                            [**2106-12-24**]  04:03 AM
                            [**2106-12-24**]  09:38 AM
                            [**2106-12-24**]  05:50 PM
                            [**2106-12-25**]  03:54 AM
                            [**2106-12-25**]  04:20 AM
                            [**2106-12-25**]  01:46 PM
                            [**2106-12-25**]  09:54 PM
                            [**2106-12-26**]  12:48 AM
                            [**2106-12-26**]  06:01 AM
   WBC
   5.2
   7.6
   7.6
   Hct
   30.2
   29.2
   30.3
   Plt
   [**Telephone/Fax (3) 12246**]
   Cr
   0.6
   0.6
   0.7
   0.7
   TCO2
   22
   21
   22
   22
   23
   24
   Glucose
   105
   118
   126
   133
   Other labs: PT / PTT / INR:16.2/90.3/1.4, CK / CKMB /
   Troponin-T:129/8/<0.01, ALT / AST:37/39, Alk Phos / T Bili:72/0.4,
   Differential-Neuts:81.5 %, Lymph:14.7 %, Mono:3.4 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:219 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Triglyc: 115
                                     pH
                                    7.44
                                    pCO2
                                     34
                                     pO2
                                     77
                                    HCO3
                                     24
                                   BaseXS
                                      0
   Type:Art; Intubated; FiO2%:50; Rate:20/7; TV:500; PEEP:5; Temp:38.1
[**2106-12-25**] 2:23 pm SPUTUM      Source: Endotracheal.
                            **FINAL REPORT [**2106-12-25**]**
   GRAM STAIN (Final [**2106-12-25**]):
      >25 PMNs and >10 epithelial cells/100X field.
      Gram stain indicates extensive contamination with upper respiratory
      secretions. Bacterial culture results are invalid.
      PLEASE SUBMIT ANOTHER SPECIMEN.
   RESPIRATORY CULTURE (Final [**2106-12-25**]):
      TEST CANCELLED, PATIENT CREDITED.
   Blood 12/13
 final NG, 12/14,15,18  pending
   Urine [**12-24**] final NG
   RPR [**12-24**] pending
   CXR last night in OMR
   Assessment and Plan
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PULMONARY EMBOLISM (PE), ACUTE
 HYPOTENSION (NOT SHOCK)
   62 yo male with history of Crohn
s, hypertension, seizure d/o,
   transferred from [**Hospital3 **] s/p respiratory distress and
   intubation.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]), hypoxic: Likely due to
   influenza with possible superimposed bacterial infection.  Also due to
   known PEs.  Echo suggests mild diastolic CHF.  Unclear from records
   exactly why patient was intubated, but continues to have high minute
   ventilation and significant atelectasis on CXR.
   - S/p bronch, no evidence of mass/malignancy
   - Per ID, tamiflu should continue for at least 7 days, then reassess;
   on Tamiflu 150 mg [**Hospital1 7**], can be used for up 6 weeks
   - standing nebs
 will ask ID for need of continued precautions/tamiflu
   after today
   - for PE, cont Heparin gtt and titrate up Coumadin to goal INR [**2-9**],
   coumadin 5 daily started on 12.17, increase to 7.5 yesterday
   - goal net negative 3 liters today
   - attempt to extubate tomorrow morning
   - Have started Vanc/Cefepime for persistent fevers, possible [**Last Name (LF) 3396**], [**First Name3 (LF) **]
   continue for 8 day course (today is day 2)
   - Attempt to extubate in the morning after continued diuresis
   # Altered Mental Status: Patient agitated when sedation weaned.  Per
   patient
s brother he is functional at baseline.
   - f/u RPR
   - restarted home depakote dose
   - low threshold for head CT
   - low threshold for EEG if mental status remains altered with no clear
   cause
   - will need valproic acid level checked [**12-27**] morning
   - will continue propofol for sedation as triglycerides wnl, may be able
   to be weaned off in the morning
 PULMONARY EMBOLISM (PE), ACUTE
   - started coumadin 2 days ago, now on 7.5mg daily, INR slightly rising
   #  Fever: Likely due to infectious process, however can be caused by a
   PE.  Low-grade temperatures at night mainly, but had fevers yesterday
   - f/u culture data, will encourage lab to process sputum endotracheal
   cultures even if endotracheal cultures
   - check urinalysis
   #  Constipation: no BM Xmultiple days, gave bisacodyl yesterday
   - added standing miralax yesterday
   # Anemia: Iron-deficient on studies.  B12 repleted
   - guaiac all stools
   - could be related to possible malignancy
   - continue iron therapy
   # Elevated CKs to 900s-1000s: Possibly due to inactivity or viral
   illness, less likely seizures.  Now resolved and within normal levels.
   #.  Depression/Seizure history: Restarted home meds, will monitor for
   increasing CK
   - continue home meds
   ICU Care
   Nutrition: Tube feeds, replete with fiber - will hold after 12am for
   possible extubation tomorrow
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-12-19**] 10:35 PM
   20 Gauge - [**2106-12-25**] 03:51 PM
   Prophylaxis:
   DVT: heparin gtt, coumadin
   Stress ulcer: famotidine
   [**Year (4 digits) 3396**]:
   Comments: bowel regimen with senna, colace, miralax
   Communication:  Comments: [**Name (NI) **] brother, [**Name (NI) **] [**Name (NI) 12132**] [**Telephone/Fax (1) 12164**], cell [**Telephone/Fax (1) 12165**]; sister, [**Name (NI) 12166**] [**Name (NI) 12167**] [**Telephone/Fax (1) 12168**]
   Code status: Full code
   Disposition: ICU

2106-12-26 15:27:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62yo M with PMH seizure disorder who was transferred from outside
   hospital with respiratory failure and hypotension, now diagnosed with
   H1N1 with shock resolved and ongoing volume overload
   24 Hour Events:
 Autodiuresed overnight
 This morning, calm and following commands off of propofol
   Patient unable to provide history: Sedated
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Tamiflu - [**2106-12-25**] 09:00 PM
   Cefipime - [**2106-12-26**] 08:17 AM
   Vancomycin - [**2106-12-26**] 08:30 AM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-12-26**] 03:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.7
C (98.1
   HR: 63 (58 - 83) bpm
   BP: 138/61(82) {99/47(65) - 154/76(101)} mmHg
   RR: 28 (18 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  2,368 mL
                                                                    908 mL
   PO:
             TF:
                                                                    762 mL
                                                                     41 mL
   IVF:
                                                                  1,515 mL
                                                                    867 mL
   Blood products:
   Total out:
                                                                  4,410 mL
                                                                  4,040 mL
   Urine:
                                                                  4,410 mL
                                                                  4,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,042 mL
                                                                 -3,132 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 550 (520 - 550) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 87
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: 7.44/34/77/21/0
   Ve: 10.8 L/min
   PaO2 / FiO2: 154
   Physical Examination
   Sedated, intubated NAD
   CTA anteriorly with decreased b/b BS
   RR,, no m
   Decreased BS, soft, NT
   Peripheral Vascular: distal pulses present 2+
   Skin: warm, without rash
   No peripheral edema
   Neurologic: unresponsive while sedated, more appropriate earlier when
   sedation light
   Labs / Radiology
   10.0 g/dL
   307 K/uL
   133 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.9 mEq/L
   10 mg/dL
   110 mEq/L
   140 mEq/L
   30.3 %
   7.6 K/uL
        [image002.jpg]
                            [**2106-12-24**]  03:34 AM
                            [**2106-12-24**]  04:03 AM
                            [**2106-12-24**]  09:38 AM
                            [**2106-12-24**]  05:50 PM
                            [**2106-12-25**]  03:54 AM
                            [**2106-12-25**]  04:20 AM
                            [**2106-12-25**]  01:46 PM
                            [**2106-12-25**]  09:54 PM
                            [**2106-12-26**]  12:48 AM
                            [**2106-12-26**]  06:01 AM
   WBC
   5.2
   7.6
   7.6
   Hct
   30.2
   29.2
   30.3
   Plt
   [**Telephone/Fax (3) 12246**]
   Cr
   0.6
   0.6
   0.7
   0.7
   TCO2
   22
   21
   22
   22
   23
   24
   Glucose
   105
   118
   126
   133
   Other labs: PT / PTT / INR:16.2/90.3/1.4, CK / CKMB /
   Troponin-T:129/8/<0.01, ALT / AST:37/39, Alk Phos / T Bili:72/0.4,
   Differential-Neuts:81.5 %, Lymph:14.7 %, Mono:3.4 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:219 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 Respiratory Failure
   - main barrier to extubation now is volume overload, is autodiuresing
   - plan to allow autodiuresis +/- lasix assitance to goal body balance
   -3L
   - will awake and SBT in the am and extubate if does well and secretions
   not increased
   - continue propofol sedation for now
 Fever
   - new fever over past two days, unlikely to be influenza and may be
   VAP, no other clear source
   - on vancomycin/cefepime for VAP and awaiting sputum culture
   - monitor for other signs of etiology; no RUQ pain to suggest
   acalculous cholecystitis, is therapeutically anticoagulated so clot
   unlikely source, etc.
 Change in mental status/Sedation
   - has been agitated off sedation previously, much improved this morning
   - no plan now for Precedex given how calm he is this morning off
   propfol
 Pulmonary Embolism
   - therapeutically anticoagulated on heparin, bridging to coumadin
 H/o seizure disorder
   - on home AEDs
   ICU Care
   Nutrition:
   Comments: Tube feeds, hold after midnight for possible extubation
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-12-19**] 10:35 PM
   20 Gauge - [**2106-12-25**] 03:51 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments: bowel regimen
   Communication:  Comments:
   Code status: Full code
   Crtiically ill
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2106-12-27 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID: Continue tamiflu for now, will reassess daily.  Get sputum
   cultures, get ECG tomorrow b/c Tamiflu can prolong QT, continue other
   Abx
   - Was negative 3L at 8pm
   - Urine cx looked a little dirty, no intervention
   - On PS 5/5, had favorable RSBI (60)
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Tamiflu - [**2106-12-25**] 09:00 PM
   Vancomycin - [**2106-12-26**] 07:07 PM
   Cefipime - [**2106-12-27**] 12:25 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Other medications:
   Acetaminophen 2. Albuterol Inhaler 3. Bisacodyl 4. CefePIME 5.
   Chlorhexidine Gluconate 0.12% Oral Rinse
   6. Docusate Sodium (Liquid) 7. Escitalopram Oxalate 8. Famotidine 9.
   Ferrous Sulfate (Liquid) 10. Fentanyl Citrate
   11. Heparin 12. 13. Ipratropium Bromide MDI 14. Magnesium Sulfate 15.
   Midazolam 16. Olanzapine
   17. Oseltamivir 18. Oxcarbazepine 19. Polyethylene Glycol 20. Propofol
   21. Senna 22. Sodium Chloride 0.9% Flush
   23. Valproic Acid 24. Vancomycin 25. Warfarin 26. Zonisamide
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: patient sedated
   Flowsheet Data as of  [**2106-12-27**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.7
C (99.8
   HR: 61 (59 - 76) bpm
   BP: 115/54(72) {94/46(62) - 154/76(101)} mmHg
   RR: 23 (18 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  2,263 mL
                                                                    354 mL
   PO:
             TF:
                                                                    734 mL
                                                                     25 mL
   IVF:
                                                                  1,529 mL
                                                                    330 mL
   Blood products:
   Total out:
                                                                  5,000 mL
                                                                    870 mL
   Urine:
                                                                  5,000 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,737 mL
                                                                   -516 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 470 (470 - 550) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 10 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: 7.46/31/71/20/0
   Ve: 13 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Gen: NAD, opens eyes to voice
   CV: rrr nl s1/s2 no mrg
   Pulm: coarse BS on inspiration b/l
   Abd: +BS, soft NTND
   Ext: pitting edema [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]/l
   Labs / Radiology
   368 K/uL
   10.5 g/dL
   127 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.1 mEq/L
   11 mg/dL
   112 mEq/L
   143 mEq/L
   30.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2106-12-24**]  05:50 PM
                            [**2106-12-25**]  03:54 AM
                            [**2106-12-25**]  04:20 AM
                            [**2106-12-25**]  01:46 PM
                            [**2106-12-25**]  09:54 PM
                            [**2106-12-26**]  12:48 AM
                            [**2106-12-26**]  06:01 AM
                            [**2106-12-26**]  03:07 PM
                            [**2106-12-27**]  03:49 AM
                            [**2106-12-27**]  04:05 AM
   WBC
   7.6
   7.6
   8.5
   Hct
   29.2
   30.3
   30.5
   Plt
   [**Telephone/Fax (3) 12267**]
   Cr
   0.6
   0.7
   0.7
   0.8
   TCO2
   22
   22
   23
   24
   23
   Glucose
   118
   126
   133
   119
   127
   Other labs: PT / PTT / INR:17.8/97.7/1.6, Albumin:3.0 g/dL, Ca++:8.6
   mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   [**12-26**] sputum GS OP flora, ctx pending
   Urine [**12-26**] pending
   Sputum [**12-25**] inad
   Blood 12/18, [**12-21**] pending
   Urine [**12-24**] neg
   RPR [**12-24**] negative
   EKG: QTc WNL
   Assessment and Plan
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PULMONARY EMBOLISM (PE), ACUTE
 HYPOTENSION (NOT SHOCK)
 Respiratory Failure: CXR improving as are vent requirements
   - main barrier to extubation now is volume overload, is autodiuresing
   - plan to allow autodiuresis +/- lasix assitance to goal body balance
   2L
   - SBT: 60
   - attempt extubation today
 Fever: still febrile X3 days
   - new fever unlikely to be influenza and may be VAP, no other clear
   source
   - on vancomycin/cefepime for VAP and awaiting sputum culture
   - monitor for other signs of etiology; no RUQ pain to suggest
   acalculous cholecystitis, is therapeutically anticoagulated so clot
   unlikely source, etc.
   -ask ID if can d/c tamiflu and stop precautions, particularly if
   extubated
 Change in mental status/Sedation
   - has been agitated off sedation previously, much improved this morning
   - no plan now for Precedex given how calm he is this morning off
   propfol
 Pulmonary Embolism
   - therapeutically anticoagulated on heparin, bridging to coumadin.
   Change to lovenox bridge.
 H/o seizure disorder
   - on home AEDs except Valproic Acid level still low
   -consider increase in Valproic Acid today- will discuss with pharmacy
   ICU Care
   Nutrition:
   Comments: Tube feeds, hold after midnight for possible extubation
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-12-19**] 10:35 PM: d/c once extubated
   20 Gauge - [**2106-12-25**] 03:51 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments: bowel regimen
   Communication:  Comments: nsing updating family daily
   Code status: Full code
   Disposition :ICU
   Patient is critically ill

2106-12-27 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Had multiple seizures during the day (3), gave IV Ativan with the
   last one, consulted neurology who recommended loading with 10mg/kg IV
   Depakote load and if he seizes again, give 2mg IV Ativan and then start
   1mg po TID standing
   - Mag low in the morning, repleted
   - Ate full lunch and ate dinner
   - Got records from [**Hospital1 403**], just showed he had a few ED visits in [**2102**] for
   seizures, treated with Ativan, and sent out
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Tamiflu - [**2106-12-25**] 09:00 PM
   Vancomycin - [**2106-12-26**] 07:07 PM
   Cefipime - [**2106-12-27**] 12:25 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Other medications:
   Citalopram Hydrobromide 3. Diazepam 4. Diazepam 5. Divalproex (DELayed
   Release) 6. Divalproex (DELayed Release)
   7. Docusate Sodium 8. FoLIC Acid 9. Lorazepam 10. Magnesium Sulfate 11.
   Multivitamins 12. Phenytoin Sodium Extended
   13. Senna 14. Sodium Chloride 0.9% Flush 15. Thiamine 16. Valproate
   Sodium
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-12-27**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.7
C (99.8
   HR: 61 (59 - 76) bpm
   BP: 115/54(72) {94/46(62) - 154/76(101)} mmHg
   RR: 23 (18 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  2,263 mL
                                                                    361 mL
   PO:
             TF:
                                                                    734 mL
                                                                     25 mL
   IVF:
                                                                  1,529 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  5,000 mL
                                                                    870 mL
   Urine:
                                                                  5,000 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,737 mL
                                                                   -509 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 470 (470 - 550) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 10 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: 7.46/31/71/20/0
   Ve: 13 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   368 K/uL
   10.5 g/dL
   127 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.1 mEq/L
   11 mg/dL
   112 mEq/L
   143 mEq/L
   30.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2106-12-24**]  05:50 PM
                            [**2106-12-25**]  03:54 AM
                            [**2106-12-25**]  04:20 AM
                            [**2106-12-25**]  01:46 PM
                            [**2106-12-25**]  09:54 PM
                            [**2106-12-26**]  12:48 AM
                            [**2106-12-26**]  06:01 AM
                            [**2106-12-26**]  03:07 PM
                            [**2106-12-27**]  03:49 AM
                            [**2106-12-27**]  04:05 AM
   WBC
   7.6
   7.6
   8.5
   Hct
   29.2
   30.3
   30.5
   Plt
   [**Telephone/Fax (3) 12267**]
   Cr
   0.6
   0.7
   0.7
   0.8
   TCO2
   22
   22
   23
   24
   23
   Glucose
   118
   126
   133
   119
   127
   Other labs: PT / PTT / INR:17.8/97.7/1.6, Differential-Neuts:81.5 %,
   Lymph:14.7 %, Mono:3.4 %, Eos:0.2 %, Albumin:3.0 g/dL, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: Phenytoin: 7.6 Valproate: 82
   Assessment and Plan
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PULMONARY EMBOLISM (PE), ACUTE
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-12-19**] 10:35 PM
   20 Gauge - [**2106-12-25**] 03:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-12-27 11:56:00 Physician Attending Progress Note
Chief Complaint: resp failure, pe, h1n1
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  62M w/ seizure disorder transferred from outside hospital with
   respiratory failure and hypotension, subsequently diagnosed with H1N1.
   24 Hour Events:
   tolerating PSV
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Tamiflu - [**2106-12-25**] 09:00 PM
   Vancomycin - [**2106-12-27**] 08:16 AM
   Cefipime - [**2106-12-27**] 08:21 AM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-12-27**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.5
   HR: 67 (61 - 76) bpm
   BP: 124/57(78) {94/46(62) - 154/68(94)} mmHg
   RR: 26 (18 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  2,263 mL
                                                                    809 mL
   PO:
             TF:
                                                                    734 mL
                                                                     25 mL
   IVF:
                                                                  1,529 mL
                                                                    725 mL
   Blood products:
   Total out:
                                                                  5,000 mL
                                                                  1,890 mL
   Urine:
                                                                  5,000 mL
                                                                  1,890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,737 mL
                                                                 -1,081 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 520 (470 - 550) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 12 cmH2O
   SpO2: 97%
   ABG: 7.46/31/71/20/0
   Ve: 13.4 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: clear anteriorly, dimished at
   bases
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin warm
   Neurologic: sedated, responds to simple commands but very somnolent
   Labs / Radiology
   10.5 g/dL
   368 K/uL
   127 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.1 mEq/L
   11 mg/dL
   112 mEq/L
   143 mEq/L
   30.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2106-12-24**]  05:50 PM
                            [**2106-12-25**]  03:54 AM
                            [**2106-12-25**]  04:20 AM
                            [**2106-12-25**]  01:46 PM
                            [**2106-12-25**]  09:54 PM
                            [**2106-12-26**]  12:48 AM
                            [**2106-12-26**]  06:01 AM
                            [**2106-12-26**]  03:07 PM
                            [**2106-12-27**]  03:49 AM
                            [**2106-12-27**]  04:05 AM
   WBC
   7.6
   7.6
   8.5
   Hct
   29.2
   30.3
   30.5
   Plt
   [**Telephone/Fax (3) 12267**]
   Cr
   0.6
   0.7
   0.7
   0.8
   TCO2
   22
   22
   23
   24
   23
   Glucose
   118
   126
   133
   119
   127
   Other labs: PT / PTT / INR:17.8/97.7/1.6, CK / CKMB /
   Troponin-T:129/8/<0.01, ALT / AST:37/39, Alk Phos / T Bili:72/0.4,
   Differential-Neuts:81.5 %, Lymph:14.7 %, Mono:3.4 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:219 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Imaging: cxr
slight improved aeration l base, b/l effusions, basilar
   consolidation/atelectasis
   Microbiology: cxs pending
   urine neg
   Assessment and Plan
   # Respiratory Failure
   - main barrier to extubation has been volume o/l
   --autodiuresing well over past few days
   - doing well now with minimal ventilatory support
   --as sedation wears off, will move toward extubation
    # Fever
   - low grade, no leukocytosis
   --unlikely to be influenza, ? VAP, no other obvious source-- no RUQ
   pain to suggest acalculous cholecystitis, therapeutically
   anticoagulated so clot unlikely source
   - now on day 2 vancomycin/cefepime for presumed VAP
tailor or d/c
   pending cx data
   - follow LFTs
   - monitor for other signs of etiology
   # Change in mental status
   - continues to improve as we lighten sedation
   # Pulmonary Embolism
   -therapeutically anticoagulated on heparin, bridging to coumadin
   -as hct has remained stable, will checnge to lovenox for bridge
   # Seizure disorder
   -on home AEDs, adjust dosing for therapeutic levels
   Remainder as per resident note
   ICU Care
   Nutrition: tfs off for probable extubation
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-12-19**] 10:35 PM
will d/c
   20 Gauge - [**2106-12-25**] 03:51 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2106-12-28 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2106-12-27**] 04:01 PM
   -extubated, did well.  ABG: 7.46/32/64/23 (was 91-92% in neb at the
   time)
   -neg 1.4 L at 7pm
   -ID said can likely D/c tamiflu and precautions at 10 days (that would
   be tomorrow), but they will come by and reassess tomorrow
   -a line pulled
   -NGT placed
   -patient desating with increased work of breathing around 4am.  did not
   tolerate suctioning by RT.  Had nebs and breathing improved.  However,
   was more confused than earlier in the day, not oriented to time. Did
   not gas because looked better when I saw him - 92-95% in high flow neb,
   RR in mid 20s, looked comfortable
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Tamiflu - [**2106-12-25**] 09:00 PM
   Vancomycin - [**2106-12-27**] 07:26 PM
   Cefipime - [**2106-12-27**] 10:49 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2106-12-27**] 07:27 PM
   Other medications:
   1. Acetaminophen 325-650 mg PO/NG Q6H:PRN pain or fever  Order date:
   [**12-20**] @ [**2032**] 15. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN wheeze  Order
   date: [**12-27**] @ 1318
   2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze, sob  Order date:
   [**12-27**] @ 1318 16. Ipratropium Bromide MDI 2 PUFF IH QID  Order date:
   [**12-19**] @ 2145
   3. Albuterol Inhaler 2 PUFF IH Q4H  Order date: [**12-19**] @ 2145 17.
   Midazolam 0.5-8 mg IV Q2H:PRN sedation  Order date: [**12-23**] @ [**2046**]
   4. Bisacodyl 10 mg PO/PR [**Hospital1 7**] constipation  Order date: [**12-25**] @ 1021 18.
   Olanzapine 20 mg PO HS  Order date: [**12-20**] @ 1412
   5. CefePIME 2 g IV Q8H  Order date: [**12-26**] @ 1319 19. Oseltamivir 150 mg
   PO BID
   D1: [**12-19**]  Order date: [**12-21**] @ 1148
   6. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 7**]
   Use only if patient is on mechanical ventilation.  Order date: [**12-19**] @
   [**2113**] 20. Oxcarbazepine 900 mg PO HS  Order date: [**12-20**] @ 1412
   7. Docusate Sodium (Liquid) 100 mg PO/NG [**Hospital1 7**]
   hold for loose or multiple stools   Order date: [**12-19**] @ 2120 21.
   Polyethylene Glycol 17 g PO/NG DAILY constipation  Order date: [**12-25**] @
   1021
   8. Enoxaparin Sodium 110 mg SC Q12H Start: [**2097**]
   Stop heparin one hour before  Order date: [**12-27**] @ 1702 22. Propofol
   5-50 mcg/kg/min IV DRIP TITRATE TO sedation  Order date: [**12-23**] @ [**2125**]
   9. Escitalopram Oxalate 10 mg PO DAILY  Order date: [**12-20**] @ 1412 23.
   Senna 5 mL PO/NG [**Hospital1 7**]
   hold for loose or multiple stools  Order date: [**12-25**] @ 1621
   10. Famotidine 20 mg PO/NG Q12H  Order date: [**12-19**] @ [**2113**] 24. Sodium
   Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**12-19**] @ 2245
   11. Ferrous Sulfate (Liquid) 300 mg PO/NG DAILY  Order date: [**12-22**] @
   1215 25. Valproic Acid 500 mg NG Q12H  Order date: [**12-24**] @ 1752
   12. Fentanyl Citrate 25-400 mcg IV Q2H:PRN agitation/pain  Order date:
   [**12-23**] @ [**2046**] 26. Vancomycin 1000 mg IV Q 12H  Order date: [**12-25**] @ 1357
   13. Heparin IV Sliding Scale
   Order date: [**12-26**] @ 1629 27. Warfarin 7.5 mg PO/NG DAILY16  Order date:
   [**12-25**] @ 1022
   14. IV access request: PICC Evaluate, Place Urgency: Routine if cannot
   get PIVs Order date: [**12-22**] @ 1319 28. Zonisamide 300 mg PO HS  Order
   date: [**12-20**] @ 1412
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt. feels SOB not bad but not at baseline, no abd
   pain, had a BM this am.
   Flowsheet Data as of  [**2106-12-28**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 71 (62 - 80) bpm
   BP: 130/63(81) {123/59(78) - 148/84(93)} mmHg
   RR: 25 (16 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
                  Total In:
                                                                  1,321 mL
                  PO:
                  TF:
                                                                     25 mL
   IVF:
                                                                  1,176 mL
   Blood products:
   Total out:
                                                                  3,220 mL
                                                                    320 mL
   Urine:
                                                                  3,220 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,899 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 24 (24 - 520) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 60%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.46/32/64/19/0
   Ve: 14.6 L/min
   PaO2 / FiO2: 107
   Physical Examination
   Gen: NAD, alert to self and hospital, monotone and flat affect
   CV: rrr nl s1/s2 no mrg
   Pulm: rhonchi b/l at bases
   Abd: +BS, soft NT but unchanged distention
   Ext: improved b/l LE edema, warm
   Neuro: generalized weakness. [**4-11**] hand grip, [**3-11**] arm lift, [**3-11**] leg lift
   right worse than left
   Labs / Radiology
   430 K/uL
   10.7 g/dL
   142 mg/dL
   0.7 mg/dL
   19 mEq/L
   4.2 mEq/L
   12 mg/dL
   109 mEq/L
   139 mEq/L
   33.4 %
   9.5 K/uL
        [image002.jpg]
                            [**2106-12-25**]  04:20 AM
                            [**2106-12-25**]  01:46 PM
                            [**2106-12-25**]  09:54 PM
                            [**2106-12-26**]  12:48 AM
                            [**2106-12-26**]  06:01 AM
                            [**2106-12-26**]  03:07 PM
                            [**2106-12-27**]  03:49 AM
                            [**2106-12-27**]  04:05 AM
                            [**2106-12-27**]  08:06 PM
                            [**2106-12-28**]  03:28 AM
   WBC
   7.6
   8.5
   9.5
   Hct
   30.3
   30.5
   33.4
   Plt
   [**Telephone/Fax (3) 12289**]
   Cr
   0.7
   0.7
   0.8
   0.7
   TCO2
   22
   23
   24
   23
   23
   Glucose
   126
   133
   119
   127
   142
   Other labs: PT / PTT / INR:18.2/34.6/1.7, Albumin:3.0 g/dL, Ca++:8.7
   mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   [**12-26**] sputum NGTD
   [**12-26**], 18 urine negative
   [**12-24**] blood pending, [**12-21**] negative
   Assessment and Plan
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PULMONARY EMBOLISM (PE), ACUTE
 HYPOTENSION (NOT SHOCK)
   62 yo with hx of chrons, HTN, epilepsy p/w hypoxic respiratory failure
   and intubation from [**Hospital3 611**].
 Respiratory Failure: s/p extubation [**12-27**]
   - plan to allow autodiuresis +/- lasix assitance to goal body balance
   2L
   - continue treatment for influenza (now D10, pending ID input) and VAP
   (vancomycin/cefepime D4/14 since [**12-25**])
   - will talk to flu coverage to ask about droplet precautions
 Fever: fever pattern overall decreasing
   -f/u cultures
   - monitor for other signs of etiology; no RUQ pain to suggest
   acalculous cholecystitis, is therapeutically anticoagulated so clot
   unlikely source, etc.
 Change in mental status/Sedation: patient more sedated/confused this
   am, might be due to ICU delerium
   -discuss baseline with family and consider head CT if has lateralized
   signs or not improving over next 1-2 days
 Pulmonary Embolism
   -on lovenox to coumadin, increase dose to 10mg today
 H/o seizure disorder
   - on home AEDs except Valproic Acid level still low
   - change to home PO dose
   ICU Care
   Nutrition:
   Comments: Tube feeds, hold after midnight for possible extubation
   s/s eval, PT consult
   Glycemic Control:
    Lines:
    20 Gauge - [**2106-12-25**] 03:51 PM
   Prophylaxis:
   DVT: Lovenox, Coumadin
   Stress ulcer: can d/c H2B since no longer intubated
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments: bowel regimen
   Communication:  Comments: nsing updating family daily
   Code status: Full code
   Disposition :ICU for now, will consider c/o tomorrow
   Patient is critically ill

2106-12-28 12:04:00 Physician Attending Progress Note
Chief Complaint: resp failure, ards, h1n1, PEs
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2106-12-27**] 04:01 PM
   extubated yesterday
   at 4am desatted after coughing fit, increased wob, improved after nebs,
   but appeared more confused
   changed from hep drip to lovenox for coumadin bridge
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Tamiflu - [**2106-12-25**] 09:00 PM
   Vancomycin - [**2106-12-28**] 08:00 AM
   Cefipime - [**2106-12-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2106-12-28**] 09:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-12-28**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98.1
   HR: 85 (62 - 90) bpm
   BP: 133/68(81) {123/59(78) - 148/84(93)} mmHg
   RR: 24 (16 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  1,321 mL
                                                                    485 mL
   PO:
             TF:
                                                                     25 mL
   IVF:
                                                                  1,176 mL
                                                                    325 mL
   Blood products:
   Total out:
                                                                  3,220 mL
                                                                    520 mL
   Urine:
                                                                  3,220 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,899 mL
                                                                    -35 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Vt (Spontaneous): 24 (24 - 24) mL
   SpO2: 94%
   ABG: 7.46/32/64/19/0
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender:
   Extremities: edema improving
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   430 K/uL
   142 mg/dL
   0.7 mg/dL
   19 mEq/L
   4.2 mEq/L
   12 mg/dL
   109 mEq/L
   139 mEq/L
   33.4 %
   9.5 K/uL
        [image002.jpg]
                            [**2106-12-25**]  04:20 AM
                            [**2106-12-25**]  01:46 PM
                            [**2106-12-25**]  09:54 PM
                            [**2106-12-26**]  12:48 AM
                            [**2106-12-26**]  06:01 AM
                            [**2106-12-26**]  03:07 PM
                            [**2106-12-27**]  03:49 AM
                            [**2106-12-27**]  04:05 AM
                            [**2106-12-27**]  08:06 PM
                            [**2106-12-28**]  03:28 AM
   WBC
   7.6
   8.5
   9.5
   Hct
   30.3
   30.5
   33.4
   Plt
   [**Telephone/Fax (3) 12289**]
   Cr
   0.7
   0.7
   0.8
   0.7
   TCO2
   22
   23
   24
   23
   23
   Glucose
   126
   133
   119
   127
   142
   Other labs: PT / PTT / INR:18.2/34.6/1.7, CK / CKMB /
   Troponin-T:129/8/<0.01, ALT / AST:37/39, Alk Phos / T Bili:72/0.4,
   Differential-Neuts:81.5 %, Lymph:14.7 %, Mono:3.4 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:219 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Imaging: cxr--improving effusions
   Assessment and Plan
   # hypoxia/ H1N1/resolving arda, VAP
   -- Doing quite well post-extubation yesterday
   --still with significant vol on board and will contineu with diuresis /
   autodiuresing
   --completing course of tamiflu pending ID input now s/p 10 days
   Compelting course of antbx for VAP day 3
   nebs
    # Fever
   - has been low grade, now af, continue to have no leukocytosis
   -- no other obvious source-- no RUQ pain to suggest acalculous
   cholecystitis, therapeutically anticoagulated so clot unlikely source
   - treating VAP as above now
   - follow LFTs
   # Change in mental status
   --continues to improve, uncler baseline
   --[**Month (only) 51**] have component of resolving delirium
   No focal neuro deficits to suggest acute event, apepars very weak from
   hpsoitial course, will c/s PT
   # Pulmonary Embolism
   -as hct has remained stable, on lovenox for bridge and continue
   coumadin
   # Seizure disorder
   -on home AEDs
   Remainder as per resident note
   ICU Care
   Nutrition: passed swallow eval, can advance diet, may need additional
   TFs for adequate nutrition
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-12-25**] 03:51 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU pendign further imrpovement in resp status, may be
   able tot trasfer to floor  later today
   Total time spent: 40 minutes

2106-12-29 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**12-29**] overnight events
   -per family MS improving but not at baseline
   -started eye drops for glaucoma!
   -changed to home meds
   -gave 10mg lasix in afternoon, negative 400 at 5pm, so gave another
   20mg IV at 630pm, and was total net neg 800 at 10 pm so got 20mg lasix
   again and was net neg 900 for the day.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2106-12-28**] 08:02 PM
   Cefipime - [**2106-12-28**] 11:35 PM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2106-12-28**] 04:00 PM
   Enoxaparin (Lovenox) - [**2106-12-28**] 08:03 PM
   Furosemide (Lasix) - [**2106-12-28**] 09:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-12-29**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 70 (65 - 90) bpm
   BP: 128/68(82) {111/55(71) - 148/79(104)} mmHg
   RR: 24 (14 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  1,344 mL
                                                                    350 mL
   PO:
                                                                    150 mL
             TF:
                                                                    190 mL
                                                                    193 mL
   IVF:
                                                                    774 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  2,270 mL
                                                                    480 mL
   Urine:
                                                                  2,270 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -926 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   405 K/uL
   9.3 g/dL
   136 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.6 mEq/L
   14 mg/dL
   107 mEq/L
   141 mEq/L
   29.1 %
   9.9 K/uL
        [image002.jpg]
                            [**2106-12-25**]  09:54 PM
                            [**2106-12-26**]  12:48 AM
                            [**2106-12-26**]  06:01 AM
                            [**2106-12-26**]  03:07 PM
                            [**2106-12-27**]  03:49 AM
                            [**2106-12-27**]  04:05 AM
                            [**2106-12-27**]  08:06 PM
                            [**2106-12-28**]  03:28 AM
                            [**2106-12-28**]  04:31 PM
                            [**2106-12-29**]  05:31 AM
   WBC
   7.6
   8.5
   9.5
   9.9
   Hct
   30.3
   30.5
   33.4
   29.1
   Plt
   [**Telephone/Fax (3) 12310**]05
   Cr
   0.7
   0.8
   0.7
   0.7
   0.7
   TCO2
   23
   24
   23
   23
   Glucose
   133
   119
   127
   142
   151
   136
   Other labs: PT / PTT / INR:21.5/37.3/2.0, CK / CKMB /
   Troponin-T:129/8/<0.01, ALT / AST:37/39, Alk Phos / T Bili:72/0.4,
   Differential-Neuts:81.5 %, Lymph:14.7 %, Mono:3.4 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:219 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR this AM
   Microbiology: GRAM STAIN (Final [**2106-12-27**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
   OROPHARYNGEAL FLORA.
   [**2106-12-24**] 5:29 pm BLOOD CULTURE      Source: Line-Aline. Blood Culture,
   Routine (Pending):
   [**12-26**]: Urine culture final
   [**2106-12-24**] 5:29 pm BLOOD CULTURE      Source: Line-Aline.   Blood
   Culture, Routine (Pending):
   DIRECT INFLUENZA A ANTIGEN TEST (Final [**2106-12-22**]):    POSITIVE FOR
   INFLUENZA A VIRAL ANTIGEN.
            Positive for Swine-like Influenza A (H1N1) virus by RT-PCR at
            State Lab.
   FECAL CULTURE (Final [**2106-12-24**]):    NO SALMONELLA OR SHIGELLA FOUND.
      CAMPYLOBACTER CULTURE (Final [**2106-12-24**]):    NO CAMPYLOBACTER FOUND.
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2106-12-22**]):
         Feces negative for C.difficile toxin A & B by EIA.
              (Reference Range-Negative).
   Assessment and Plan
   Assessment and Plan
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PULMONARY EMBOLISM (PE), ACUTE
 HYPOTENSION (NOT SHOCK)
   62 yo with hx of chrons, HTN, epilepsy p/w hypoxic respiratory failure
   and intubation from [**Hospital3 611**].
 Respiratory Failure: s/p extubation [**12-27**]
   - plan to allow autodiuresis +/- lasix assitance to goal body balance
   2L
   - continue treatment for influenza (now D11, pending ID input) and VAP
   (vancomycin/cefepime D5/14 since [**12-25**])
   - will talk to flu coverage to ask about droplet precautions
 Fever: fever curve trending down overall; tmax 98.4
   -f/u cultures
   - monitor for other signs of etiology; no RUQ pain to suggest
   acalculous cholecystitis, is therapeutically anticoagulated so clot
   unlikely source, etc.
 Change in mental status/Sedation: patient continues to have AMS, but
   improving as per family
   -will still consider head CT if has lateralized signs or not improving
   over next 1-2 days
 Pulmonary Embolism
   -on lovenox to coumadin; coumadin increased to 10mg yesterday
 H/o seizure disorder
   - on home AEDs except Valproic Acid level still low
   - change to home PO dose
   ICU Care
   Nutrition:
   Comments: Tube feeds, hold after midnight for possible extubation
   s/s eval, PT consult
   Glycemic Control:
    Lines:
    20 Gauge - [**2106-12-25**] 03:51 PM
   Prophylaxis:
   DVT: Lovenox, Coumadin
   Stress ulcer: can d/c H2B since no longer intubated
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments: bowel regimen
   Communication:  Comments: nsing updating family daily
   Code status: Full code
   Disposition :ICU for now, will consider c/o tomorrow
   Patient is critically ill

2106-12-29 13:05:00 Physician Attending Progress Note
Chief Complaint: resp failure, ards, H1N1, VAP, PE
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   uneventful evening,
   MS still not at baseline
   lasix w/ good response
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2106-12-28**] 08:02 PM
   Cefipime - [**2106-12-29**] 08:33 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2106-12-28**] 04:00 PM
   Furosemide (Lasix) - [**2106-12-28**] 09:59 PM
   Enoxaparin (Lovenox) - [**2106-12-29**] 08:30 AM
   Famotidine (Pepcid) - [**2106-12-29**] 08:30 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-12-29**] 12:51 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.7
   HR: 69 (65 - 80) bpm
   BP: 114/60(73) {111/55(70) - 148/79(104)} mmHg
   RR: 27 (14 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  1,344 mL
                                                                    626 mL
   PO:
                                                                    150 mL
             TF:
                                                                    190 mL
                                                                    318 mL
   IVF:
                                                                    774 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  2,270 mL
                                                                    865 mL
   Urine:
                                                                  2,270 mL
                                                                    865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -926 mL
                                                                   -239 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Awake and alert, remains slightly confused but redirectable
   CTA, diminished at bb
   RR
   Benign, +BS
   Warm, improving dep edema
   Labs / Radiology
   9.3 g/dL
   405 K/uL
   136 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.6 mEq/L
   14 mg/dL
   107 mEq/L
   141 mEq/L
   29.1 %
   9.9 K/uL
        [image002.jpg]
                            [**2106-12-25**]  09:54 PM
                            [**2106-12-26**]  12:48 AM
                            [**2106-12-26**]  06:01 AM
                            [**2106-12-26**]  03:07 PM
                            [**2106-12-27**]  03:49 AM
                            [**2106-12-27**]  04:05 AM
                            [**2106-12-27**]  08:06 PM
                            [**2106-12-28**]  03:28 AM
                            [**2106-12-28**]  04:31 PM
                            [**2106-12-29**]  05:31 AM
   WBC
   7.6
   8.5
   9.5
   9.9
   Hct
   30.3
   30.5
   33.4
   29.1
   Plt
   [**Telephone/Fax (3) 12310**]05
   Cr
   0.7
   0.8
   0.7
   0.7
   0.7
   TCO2
   23
   24
   23
   23
   Glucose
   133
   119
   127
   142
   151
   136
   Other labs: PT / PTT / INR:21.5/37.3/2.0, CK / CKMB /
   Troponin-T:129/8/<0.01, ALT / AST:37/39, Alk Phos / T Bili:72/0.4,
   Differential-Neuts:81.5 %, Lymph:14.7 %, Mono:3.4 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:219 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Microbiology: [**12-24**] -bl p
   [**12-26**]-urine neg
   Assessment and Plan
   Ongoing issues include:
   # hypoxia
improving, initially [**2-8**] H1N1/resolving ards, VAP, and now
   primarily from volume ol
   -- doing well on NC
   --allow for autodiuresis, follow i/o
   --s/p 10 days tamiflu
   --Completing antbx for VAP day [**5-13**] vanco/cefe
   --Nebs
   # mental status
   --Continues to improve slowly, but remains slow, off from baseline
   ---No focal neuro deficits to suggest acute event
   --suspect [**2-8**] resolving infection/medications
   --will check u/a, noting slight increase in WBC to r/o uti
   --no obvious evidence of addiitonal infection and remains AF
   # Weakness
   -probable ICU myopathy
   -working with PT
   # Pulmonary Embolism
   -  continue  lovenox for bridge, for 24 hr therapeutic INR on coumadin
   -  hct remains stable
   # Seizure disorder
   -home AEDs
   Remainder as per resident note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-12-28**] 02:00 PM 25 mL/hour
taking good
   PO, can d/c
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-12-25**] 03:51 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : stable to transfer to floor
   Total time spent: 40 minutes